US05112988
A 5.4N ethanolic solution (1.3 cc) of ammonia is added to a stirred suspension, cooled to -10° C., of (3aRS,7aRS)-2-[1-ethoxy-2-(2-methoxyphenyl)ethylidene]-4-oxo-7,7-diphenylperhydroisoindolium tetrafluoroborate (5.7 g) in anhydrous dichloromethane (15 cc). The reaction mixture is then allowed to return to room temperature and stirring is continued for 20 hours. The reaction mixture is diluted with dichloromethane (20 cc) and treated with 10% strength aqueous potassium carbonate solution (20 cc). The precipitate present is removed by filtration and the organic phase is then washed with distilled water (25 cc) and with saturated aqueous sodium chloride solution (25 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized in acetonitrile (10 cc). The crystals obtained are drained, washed with acetonitrile (10 cc) and dried. and dried. (3aRS,7aRS)-2-[1-Imino-2-(2-methoxyphenyl)ethyl]-7,7-diphenylperhydro-4-isoindolone (1 g), m.p. above 260° C. is obtained.

reactant | ammonia | N | H3N
reactant | (3aRS,7aRS)-2-[1-ethoxy-2-(2-methoxyphenyl)ethylidene]-4-oxo-7,7-diphenylperhydroisoindolium tetrafluoroborate | 5.7 g | F[B-](F)(F)F.C(C)OC(CC1=C(C=CC=C1)OC)=[N+]1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 20 cc | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 15 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-[1-Imino-2-(2-methoxyphenyl)ethyl]-7,7-diphenylperhydro-4-isoindolone | 1 g | N=C(CC1=C(C=CC=C1)OC)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H30N2O2
